US07691882B2
2-Methyl-5-(4-(2-nitro-ethyl)-benzyl)-furan
To a mixture of 2-methyl-5-(4-((E)-2-nitro-vinyl)-benzyl)-furan (120 mg) described in Manufacturing Example 46-1-4, acetic acid (0.2 mL) and dimethyl sulfoxide (3.4 mL) was added sodium borohydride (29 mg, 0.77 mmol) at room temperature while cooling appropriately, which was stirred for 20 minutes at room temperature. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and was concentrated under a reduced pressure. The residue was purified by neutral silica gel column chromatography (ethyl acetate:heptane=1:5) to obtain the title compound (90 mg, 77%).

reactant | 2-methyl-5-(4-((E)-2-nitro-vinyl)-benzyl)-furan | 120 mg | CC=1OC(=CC1)CC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C14H13NO3
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
reactant | dimethyl sulfoxide | 3.4 mL | CS(=O)C | C2H6OS
reactant | sodium borohydride | 0.77 mmol, 29 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | 2-Methyl-5-(4-(2-nitro-ethyl)-benzyl)-furan | 90 mg, 77% | CC=1OC(=CC1)CC1=CC=C(C=C1)CC[N+](=O)[O-] | C14H15NO3
